US06486341B1
H-2) N-methoxy-{2-[(2-methoxyimino-1-methyl-2-(4-fluorophenyl)-ethylidene)-hydrazonomethyl]-phenyl}-carbamic acid methyl ester
A solution of 1.05 g of (2-formyl-phenyl)-N-methoxycarbamic acid methyl ester and 1.05 g of 1-(4-fluorophenyl)-2-hydrazono-propan-1-on-O-methyl-oxime in 5 ml of methanol is stirred at room temperature for 4 hours. The resulting by-product (symmetric azine of 1-(4-fluorophenyl)-2-hydrazono-propan-1-on-O-methyl-oxime) is removed by filtration and the filtrate is placed in a refrigerator over night. The product which has crystallised is filtered off (1.0 g). By concentrating the mother liquor and by means of fractional crystallisation of the residue, a further 0.48 g of the title compound are obtained in the form of yellow crystals having a melting point of 88-90° C.

reactant | (2-formyl-phenyl)-N-methoxycarbamic acid methyl ester | 1.05 g | COC(N(OC)C1=C(C=CC=C1)C=O)=O | C10H11NO4
reactant | 1-(4-fluorophenyl)-2-hydrazono-propan-1-on-O-methyl-oxime | 1.05 g | CON=C(C(C)=NN)C1=CC=C(C=C1)F | C10H12FN3O
solvent | methanol | 5 ml | CO | CH4O
product | N-methoxy-{2-[(2-methoxyimino-1-methyl-2-(4-fluorophenyl)-ethylidene)-hydrazonomethyl]-phenyl}-carbamic acid methyl ester | 0.48 g | COC(N(OC)C1=C(C=CC=C1)C=NN=C(C(C1=CC=C(C=C1)F)=NOC)C)=O | C20H21FN4O4
